US06790860B2
A solution of 0.02 ml (0.18 mmol) trichloromethylchloroformate in 3 ml CH2Cl2 was treated at 0° C. with 0.04 ml (0.37 mmol) quinoline and after 15 min with 0.17 g (0.33 mmol) (2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine in 2 ml CH2Cl2. After 2 h, the reaction was evaporated and redissolved in 15 ml CH2Cl2 and treated at 0° C. with 0.14 ml (1.65 mmol) pyrrolidine and stirred for 30 min. The reaction was extracted with aqueous 10% KHSO4/Et2O (3×) and the organic phase was dried over Na2SO4. Evaporation and precipitation from Et2O/pentane gave 121 mg (59%) (2S,4R)-Pyrrolidin-1-yl-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-methanone, MS: 617 (M+H+).

reactant | trichloromethylchloroformate | 0.18 mmol, 0.02 ml | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | quinoline | 0.37 mmol, 0.04 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | (2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine | 0.33 mmol, 0.17 g | FC1=C(COC[C@H]2NC[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C(=C1)F)F | C31H28F3NOS
reactant | pyrrolidine | 1.65 mmol, 0.14 ml | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (2S,4R)-Pyrrolidin-1-yl-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-methanone | 121 mg, 59% | N1(CCCC1)C(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C36H35F3N2O2S
